US08629271B2
a) 2-(3-(2,2-Diethoxyethoxy)phenyl)ethanol
Caesium carbonate (8.84 g) was added to a solution of 3-(2-hydroxyethyl)phenol (2.5 g) and 2-bromo-1,1-diethoxyethane (3.74 g) in DMF (50 mL), and the resulting mixture was stirred at 90° C. overnight, then allowed to cool. The mixture was poured into water and extracted three times with ethyl acetate. The combined extracts were washed with water and brine, then dried over anhydrous sodium sulphate and purified by flash chromatography on silica eluted with a gradient of diethyl ether in isohexane to afford the subtitled compound as a pale yellow oil. Yield 3.0 g.

reactant | Caesium carbonate | 8.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(2-hydroxyethyl)phenol | 2.5 g | OCCC=1C=C(C=CC1)O | C8H10O2
reactant | 2-bromo-1,1-diethoxyethane | 3.74 g | BrCC(OCC)OCC | C6H13BrO2
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(3-(2,2-Diethoxyethoxy)phenyl)ethanol | C(C)OC(COC=1C=C(C=CC1)CCO)OCC | C14H22O4
